US04596872
5,6-Dihydro-8-(4-methylphenyl)imidazo[1,2-a]pyridine
Combine 100 g (0.51 mole) of 4-chloro-4'-methylbutyrophenone with 300 g (4.4 mole) of imidazole and heat to 175° C. under nitrogen for 24 hr. Purification from 1 kg of silica gel using methylene chloride as solvent, followed by crystallization from ether provides the title compound.

reactant | 4-chloro-4'-methylbutyrophenone | 0.51 mole, 100 g | ClCCCC(=O)C1=CC=C(C=C1)C | C11H13ClO
reactant | imidazole | 4.4 mole, 300 g | N1C=NC=C1 | C3H4N2
product | 5,6-Dihydro-8-(4-methylphenyl)imidazo[1,2-a]pyridine | CC1=CC=C(C=C1)C=1C=2N(CCC1)C=CN2 | C14H14N2
